Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Potassium
 
Attending: ___.
 
Chief Complaint:
Positive blood cultures
 
Major Surgical or Invasive Procedure:
PICC line insertion
 
History of Present Illness:
The patient is a ___ with AS, HTN, CAD, DM, chronic anemia, 
transfusion dependent who was recently discharged from the 
medicine service on ___ following an evaluation for a possible 
syncopal episode that was likely ___ worsened anemia. He 
received 4 units of PRBCs during that admission. He also had 
fevers during that admission with no clear source. A CT torso 
showed only bilateral effusions with no other abnormalities. 
However, blood cultures drawn ___ returned with ___ bottles 
positive for GPCs on ___. The patient was asked to return to the 
emergency room. He had 2 more sets of blood cultures drawn and 
got one dose of levofloxacin. A repeat CXR showed interval 
improvement in the left pleural effusion.
.
On presentation to the floor, the patient states that he feels 
fine. He denies HA, visual changes, cough, SOB, chest pain, abd. 
pain, N/V/D, dysuria, focal weakness or numbness. He states he 
wants to go home as soon as possible. 

 
Past Medical History:
1. Hypertension  
2. Hypercholesterolemia  
3. Diabetes type 2  
4. Severe Aortic stenosis  
4. Conduction system disease (1 AVB, RBBB)  
5. Bradycardia prohibiting Beta Blocker  
6. Right carotid stenosis (50% on ultrasound ___  
7. Colon cancer - s/p resection  
8. CAD s/p 4V CABG in ___  
 
Social History:
___
Family History:
Father w/ CAD and two prior MIs; mother with unknown "heart" 
condition  
 
Physical Exam:
Vitals: T: 99. 7 P: 79 BP: 165/73 O2: 96% RA
General: Well appearing, NAD
HEENT: L pupil surgical, conjunctiva and sclera clear
Neck: No LAD, no JVD noted
Heart: ___ SEM, no RGs noted
Lungs: Bilateral basilar rales
Abd: soft, NT/ND, +BS, no HSM noted
Ext: no edema, no lesions noted in hands or fingernails
Neuro: ___ strength in all extremities, sensation intact to 
gross, CN ___ intact
Skin: No rash

 
Pertinent Results:
___ 06:45AM BLOOD WBC-11.8* RBC-3.74* Hgb-11.1* Hct-31.7* 
MCV-85 MCH-29.8 MCHC-35.2* RDW-15.1 Plt ___
___ 07:15AM BLOOD WBC-11.2* RBC-3.65* Hgb-10.2* Hct-31.2* 
MCV-86 MCH-27.9 MCHC-32.6 RDW-14.8 Plt ___
___ 04:15PM BLOOD WBC-13.2* RBC-3.61* Hgb-10.7* Hct-30.7* 
MCV-85 MCH-29.7 MCHC-34.9 RDW-14.8 Plt ___
___ 07:15AM BLOOD Neuts-88.8* Lymphs-6.9* Monos-2.8 Eos-1.5 
Baso-0.1
___ 06:50AM BLOOD ESR-58*
___ 06:40AM BLOOD ESR-56*
___ 06:45AM BLOOD Glucose-126* UreaN-28* Creat-1.6* Na-140 
K-4.1 Cl-104 HCO3-26 AnGap-14
___ 07:15AM BLOOD Glucose-129* UreaN-26* Creat-1.3* Na-141 
K-4.1 Cl-105 HCO3-29 AnGap-11
___ 04:00PM BLOOD Calcium-8.6 Phos-3.5 Mg-2.0
___ 04:33PM BLOOD Lactate-1.8 K-4.0
___ 05:17PM URINE Color-Yellow Appear-Clear Sp ___
___ 05:17PM URINE Blood-SM  Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 03:35PM URINE ___ Bacteri-OCC Yeast-NONE 
Epi-0
___ 03:35PM URINE ___

___ 4:50 pm BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      VIRIDANS STREPTOCOCCI. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI. 
      IN PAIRS AND CHAINS. 

___ 10:50 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      VIRIDANS STREPTOCOCCI. 
         Sensitivity testing performed by Sensititre. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             VIRIDANS STREPTOCOCCI
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   =>1 R
PENICILLIN G----------<=0.12 S
VANCOMYCIN------------   <=1 S

   Anaerobic Bottle Gram Stain (Final ___: 
      REPORTED BY PHONE TO ___ RN, AT 1540 ON ___. 
      GRAM POSITIVE COCCI IN CHAINS. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CHAINS. 

CHEST (PA & LAT)

Reason: eval for change 

UNDERLYING MEDICAL CONDITION:
___ year old man with positive blood cultures, abnl CT 
REASON FOR THIS EXAMINATION:
eval for change 
HISTORY: Positive blood cultures with abnormal CT.

FINDINGS: In comparison with the study of ___, there is 
persistent enlargement of the cardiac silhouette in this patient 
who has undergone a previous coronary artery bypass graft. 
Bilateral pleural effusions are seen on the lateral view. No 
evidence of acute pneumonia or definite pulmonary vascular 
congestion. 

TTE:
The left atrium is moderately dilated. There is mild symmetric 
left ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The ascending 
aorta is mildly dilated. There are three calcified aortic valve 
leaflets. There is severe aortic valve stenosis (area 0.7 cm2). 
Trace aortic regurgitation is seen. The mitral valve leaflets 
are mildly thickened. There is no mitral valve prolapse. No mass 
or vegetation is seen on the mitral valve. Mild (1+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. The supporting structures of the tricuspid valve are 
thickened/fibrotic. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 

IMPRESSION: No evidence of endocarditi. Mild symmetric left 
ventricular hypertrophy with preserved global and regional 
biventricular systolic function. Severe calcific aortic 
stenosis. Mild pulmonary hypertension.

Compared with the prior study (images reviewed) of ___, 
biventricular function has normalized, and severity of mitral 
and tricuspid regurgitation has diminished. The other findings, 
including severity of aortic stenosis, are similar.  

ECG:
Sinus rhythm with 1st degree A-V block 
Right bundle branch block 
Nonspecific diffuse T wave flattening 
Since previous tracing of ___, T wave flattening noted 
  

MRI ___:
IMPRESSION:
1. Signal abnormalities at C3-4 disc are suspicious for early 
changes of discitis. No epidural abscess or epidural phlegmon 
identified. No prevertebral or paravertebral abscess seen.
2. Mild multilevel degenerative changes. No evidence of spinal 
cord compression.
3. Heterogenous thyroid gland with enlargement as described 
above.

 
Brief Hospital Course:
Mr. ___ is a ___ yo M with a PMH of severe aortic stenosis, 
DM2, anemia who presented from home with positive blood 
cultures. Hospital course is as described below:

# Positive blood cultures: The patient was noted to have fever 
during his previous admission but was discharged after cultures 
remained negative for 48 hours. He was called back in on ___ 
after his blood cultures from ___ grew streptococcus 
viridans, ___ bottles. His repeat blood cultures drawn on ___ 
before antibiotics also came back with ___ bottles positive for 
strep. viridans. He was started on vancomycin presumptively and 
was continued on it given his penicillin allergy (severe leg 
swelling). The source of the strep. viridans is unclear at this 
point. In discussion with the blood bank, it appears that his 
fevers began prior to his transfusions on his previous 
admission, making an infected blood product very unlikely. A TTE 
showed no evidence of vegetations. In discussion with his 
cardiologist, Dr. ___, it was felt that a TEE would 
add little data given his already markedly abnormal valves. 
Given our high suspicion for endocarditis and the species of 
bacteria, it was decided to treat presumptively for native valve 
endocarditis.  A PICC was placed after his subsequent cultures 
had been negative for greater 72hrs. He will continue on his 
vancomycin for a total of a 6 week course. He had some low grade 
fevers initially during his admission but had been afebrile for 
48 hours prior to discharge. He was evaluated by ___ and OT and 
and they recommended a short stay at a rehab facility given his 
deconditioning.

# Neck pain/discitis: The patient described approximate one 
month of subacute neck pain that he states was helped by 
physical therapy. Out of concern for osteomyelitis or spinal 
epidural abscess given his concurrent endocarditis, he received 
and MRI of his cervical spine which showed early discitis at 
C3-4. This necessitated a 6 week course of antibiotics as above. 
He was continued on a soft cervical collar and tylenol for pain 
control. 

# Transfusion-dependent anemia: Unclear source. ___, EGD, small 
 
bowel enteroscopy did not find bleed in past. His hematocrit 
remained stable during this admission. He was continued on his 
TID iron. 
.  
# CAD: He was continued on his home ASA, Isordil, ACEI, statin, 
and no BB was used secondary to bradycardia in past.  
.  
# Hypertension: Continued on his home dose Lasix, Isordil, 
lisinopril, and prazosin.  
.  
# Hypercholesterolemia: Continued on his home dose statin  
.  
# Aortic stenosis: Severe aortic stenosis. But remained 
euvolemic and asymptomatic. Needs AVR per Dr. ___ 
the patient has repeatedly refused.  
.  
# Chronic Systolic Heart Failure with EF50%: Continued on home 
dose Lasix and ACEI, no beta blocker because of bradycarida.  No 
signs of volume overload during this admission. 
.  
# DM2: Held glyburide while in house and treated with RISS. 
Restarted glyburide on discharge.  
.  
#) FEN - diabetic, cardiac low salt dietdiet  
#) PPx - heparin subcutaneously for DVT ppx. PPI per home 
regimen. Bowel regimen  
#) Code - FULL  
#) Dispo- to rehab given deconditioning with lengthy hospital 
stay.

 
Medications on Admission:
Aspirin Childrens 81 mg--one tablet(s) by mouth once a day  
DOCUSATE SODIUM 100 mg--1 capsule by mouth twice a day prn  
FERROUS SULFATE 325 mg (65 mg Elemental Iron)--1 by mouth 3x/day 

FINASTERIDE 5 mg--one tablet by mouth daily  
FUROSEMIDE 20 mg--one tablet by mouth once a day  
GLYBURIDE 2.5 mg--0.5 tablet by mouth daily (daily)  
ISOSORBIDE DINITRATE 10 mg--1 tablet by mouth three times a day  

LISINOPRIL 40 mg--1 tablet by mouth daily  
LORAZEPAM 1 mg--1 tablet by mouth at bedtime  
OMEPRAZOLE 20 mg--one capsule by mouth twice a day  
PRAZOSIN 5 mg--2 capsule by mouth twice a day  
Psyllium --___ packet by mouth twice a day  
SIMVASTATIN 20 mg--one tablet by mouth once a day  
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed.  
3. Ferrous Sulfate 300 mg/5 mL Liquid Sig: Five (5) mL PO TID (3 
times a day).  
4. Finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Isosorbide Dinitrate 10 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).  
7. Lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Prazosin 5 mg Capsule Sig: Two (2) Capsule PO BID (2 times a 
day).  
9. Psyllium     Packet Sig: ___ Packets PO BID (2 times a day).  

10. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1) mL 
Injection TID (3 times a day).  
11. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
12. Trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) as 
needed.  
13. Vancomycin in Dextrose 1 gram/200 mL Piggyback Sig: One (1) 
gram Intravenous once a day for 5 weeks: to end on ___.  
14. Glyburide 2.5 mg Tablet Sig: 0.5 Tablet PO once a day.  
15. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  

16. Omeprazole 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO twice a day.  
17. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Streptococcus viridans presumptive endocarditis
Early discitis at C3-4
Aortic stenosis
Coronary artery disease
Hypertension
Diabetes Mellitus Type 2

 
Discharge Condition:
All vital signs stable, afebrile, ambulatory.

 
Discharge Instructions:
You were admitted with positive blood cultures showing bacteria 
growing in your blood. This bacteria infected a disc on your 
cervical spine and likely one of the valves in your heart. You 
will need to be treated with IV antibiotics for 6 weeks total 
(until ___ to clear this infection. You will receive 
these antibiotics (vancomycin) through the large IV called a 
PICC line. This bacteria likely came from a small break in your 
mouth. There is no evidence that it came from your transfusions. 


Please take all your medications as prescribed. Please attend 
all of your follow up appointments.

Please call your doctor or return to the emergency room if you 
experience fevers, chills, chest pain, shortness of breath, 
palpitations, abdominal pain, nausea, vomitting, diarrhea, pain 
with urination, focal weakness, numbness, or tingling, or any 
other symptom that concerns you. 
 
Followup Instructions:
___